US07960552B2
A solution of 2,4-dichloro-3-pyridinecarbaldehyde (2.15 g, 12.4 mmol) in ethanol (18 mL) was added to a solution of hydroxylamine hydrochloride (1.01 g, 14.5 mmol) and sodium hydroxide (0.58 g, 14.5 mL) in water (9 mL). The resulting solution was heated in a 65° C. oil bath for 3 hours. The mixture was filtered to yield a white solid which was dried in a vacuum oven at 45° C. with P2O5 to yield 2,4-dichloro-3-pyridinecarbaldehyde oxime (1.89 g, 80%). 1H NMR (400 MHz, DMSO-d6): δ 12.00 (s, 1H), 8.35 (d, J=5 Hz, 1H), 8.19 (s, 1H), 7.68 (d, J=5 Hz, 1H).

reactant | 2,4-dichloro-3-pyridinecarbaldehyde | 12.4 mmol, 2.15 g | ClC1=NC=CC(=C1C=O)Cl | C6H3Cl2NO
reactant | hydroxylamine hydrochloride | 14.5 mmol, 1.01 g | Cl.NO
reactant | sodium hydroxide | 14.5 mL, 0.58 g | [OH-].[Na+]
solvent | ethanol | 18 mL | C(C)O | C2H6O
solvent | water | 9 mL | O | H2O
product | 2,4-dichloro-3-pyridinecarbaldehyde oxime | 1.89 g, 80% | ClC1=NC=CC(=C1C=NO)Cl | C6H4Cl2N2O
